US04415573
Trimethylchlorosilane (4 ml) was added to a suspension of 5-methyluracil (thymine) (5 g) in hexamethylsilazane (20 ml) followed by refluxing for 5 hours. The resulting ammonium chloride was removed by filtration and the filtrate was evaporated to give bis(trimethylsilyl)-5-methyluracil as oil. To a solution of the oil in dry dichloromethane (10 ml) was added 2-methyl-1,3-dioxolane (15 ml) and then was added dropwise stannic chloride (5 ml). After allowing the mixture to stand at room temperature overnight, it was treated as in Example 10 to give 4.6 g of crystalline 1-[α-(2-hydroxyethoxy)-ethyl]-5-methyluracil.

reactant | Trimethylchlorosilane | 4 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | 5-methyluracil | 5 g | CC=1C(NC(NC1)=O)=O | C5H6N2O2
solvent | hexamethylsilazane | 20 ml | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
product | bis(trimethylsilyl)-5-methyluracil | C[Si](C)(C)C1=C(C(N(C(N1)=O)[Si](C)(C)C)=O)C | C11H22N2O2Si2
